US07396958B2
(2-nitro-5-fluorophenyl)(2-chlorophenyl)methanone
To 2.6 g of chromium trichloride suspended in 50 ml of THF are successively added 30 ml of a 0.5M solution in THF of 2-chlorophenyliodozinc, 2.54 g of 2-nitro-5-fluorobenzaldehyde and 5.7 ml of trimethylsilyl chloride. The mixture is heated at 65° C. for 1 hour and then left at room temperature for 18 hours. 1M hydrochloric acid solution is added to the reaction medium, the precipitate formed is filtered off and the filtrate is concentrated. The residue is taken up in ethyl acetate and washed with water. The organic phase is dried over anhydrous sodium sulfate and concentrated. The residue is chromatographed on a column of silica gel, eluting with cyclohexane, to give 1 g of the expected product.

reactant | 2-chlorophenyliodozinc | ClC1=C(C=CC=C1)[Zn]I
reactant | 2-nitro-5-fluorobenzaldehyde | 2.54 g | [N+](=O)([O-])C1=C(C=O)C=C(C=C1)F | C7H4FNO3
reactant | trimethylsilyl chloride | 5.7 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | chromium trichloride | 2.6 g | [Cl-].[Cl-].[Cl-].[Cr+3]
product | (2-nitro-5-fluorophenyl)(2-chlorophenyl)methanone | 1 g | [N+](=O)([O-])C1=C(C=C(C=C1)F)C(=O)C1=C(C=CC=C1)Cl | C13H7ClFNO3
